US04680301
A mixture of 2 g of 6-amino-2-tert-butyl-5-[4-acetylpiperazin-1-yl]benzothiazole and 1.5 g of sodium bicarbonate in 150 ml of chloroform is cooled to 0° and 4 ml of thiophosgene is added dropwise and stirred at ambient temperature overnight. The solid is filtered off and the filtrate is evaporated under reduced pressure. The oil so obtained is applied on a silica gel column and eluted with 1% methanol in chloroform to yield 2-tert-butyl-6-isothiocyanato-5-[4-acetylpiperazin-1-yl]benzothiazole, melting at 100°-102°.

reactant | 6-amino-2-tert-butyl-5-[4-acetylpiperazin-1-yl]benzothiazole | 2 g | NC1=CC2=C(N=C(S2)C(C)(C)C)C=C1N1CCN(CC1)C(C)=O | C17H24N4OS
reactant | sodium bicarbonate | 1.5 g | C([O-])(O)=O.[Na+]
reactant | thiophosgene | 4 ml | C(=S)(Cl)Cl | CCl2S
solvent | chloroform | 150 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-tert-butyl-6-isothiocyanato-5-[4-acetylpiperazin-1-yl]benzothiazole | C(C)(C)(C)C=1SC2=C(N1)C=C(C(=C2)N=C=S)N2CCN(CC2)C(C)=O | C18H22N4OS2
